US05668131
1. 2-{3-Chloro-4-{N-[2-(N-benzyl-N-ethylamino)ethyl]-N-methylamino}-2-pyridyl)-methylthio-1H-benzimidazole trihydrochloride
2-{3-Chloro-4-[N-(2-chloroethyl)-N-methylamino]-2-pyridyl}-methylthio-1H-benzimidazole (500 mg/1.24 mmol) are heated in N-ethylbenzylamine (15 ml) at 140° C. for 4.5 h. Then the excess N-ethylbenzylamine is removed by distillation under high vacuum, and the residue is chromatographed on silica gel (dichloromethane/methanol 97/3 mixture which contains 1 ml of conc. NH3 ×aq./l). The collected pure fractions are concentrated together in vacuo and dissolved in a little methanol, and saturated ethereal hydrochloric acid (1 ml) and diisopropyl ether are added and the solid which precipitates thereby is filtered off and dried in vacuo. Yield: 200 mg (28%) of the title compound as a colorless solid of melting point >180° (decomposition).

reactant | 2-{3-Chloro-4-[N-(2-chloroethyl)-N-methylamino]-2-pyridyl}-methylthio-1H-benzimidazole | 1.24 mmol, 500 mg | ClC=1C(=NC=CC1N(C)CCCl)C1=NC2=C(N1SC)C=CC=C2 | C16H16Cl2N4S
reactant | N-ethylbenzylamine | 15 ml | C(C)NCC1=CC=CC=C1 | C9H13N
product | 2-{3-Chloro-4-{N-[2-(N-benzyl-N-ethylamino)ethyl]-N-methylamino}-2-pyridyl)-methylthio-1H-benzimidazole trihydrochloride | Cl.Cl.Cl.ClC=1C(=NC=CC1N(C)CCN(CC)CC1=CC=CC=C1)C1=NC2=C(N1SC)C=CC=C2 | InChI=1S/C25H28ClN5S.3ClH/c1-4-30(18-19-10-6-5-7-11-19)17-16-29(2)22-14-15-27-24(23(22)26)25-28-20-12-8-9-13-21(20)31(25)32-3;;;/h5-15H,4,16-18H2,1-3H3;3*1H
